US08604214B2
Synthesis of 2-(5-Chloropentyloxy)benzo[d]thiazole (K23)
To a solution of 2-hydroxybenzothiazole (0.2 g, 1.32 mmol) in 10 mL of acetonitrile was added K2CO3 (0.274 g, 1.98 mmol), followed by stirring at 50˜55° C. for 30 min. Then, 1-bromo-5-chloropentane (0.245 g, 1.32 mmol) was added to and reacted with the solution of 2-hydroxybenzothiazole at 80˜90° C. for 3 hours. The reaction was cooled to room temperature, diluted with 10 mL of EtOAc, and washed with distilled water and a saturated NaCl aqueous solution. It was dried over MgSO4 and the solvent was removed by concentration under reduced pressure to afford K23 (0.333 g, 98%).

reactant | 2-hydroxybenzothiazole | 1.32 mmol, 0.2 g | OC=1SC2=C(N1)C=CC=C2 | C7H5NOS
reactant | K2CO3 | 1.98 mmol, 0.274 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-5-chloropentane | 1.32 mmol, 0.245 g | BrCCCCCCl | C5H10BrCl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 2-(5-Chloropentyloxy)benzo[d]thiazole | ClCCCCCOC=1SC2=C(N1)C=CC=C2 | C12H14ClNOS
